US07456177B2
Preparation of Trifluoro-methanesulfonic acid 11-allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-6-yl ester
11-Allyl-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one (0.5 g, 2.05 mmol) and pyridine (326 mg, 4.11 mmol) were stirred in dichloromethane (25 mL) at −78° C. under N2 and treated with trifluoromethane sulfonic anhydride (870 mg, 3.08 mmol) dropwise over 1 min. The mixture was allowed to warm to ambient temperature and stirred for 1/2 h then poured into 1N aqueous HCl solution and shaken. The layers were separated and the aqueous layer was extracted with dichloromethane (2×30 mL). The combined organic layer was washed with H2O (50 mL), saturated aqueous NaHCO3 solution (50 mL), dried through a cotton plug, concentrated and purified by chromatography on silica gel eluting with 30% EtOAc/hexanes to provide an oil (605 mg, 79%). (TLC 30% EtOAc/hexanes Rf 0.28).

reactant | 11-Allyl-6-hydroxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one | 2.05 mmol, 0.5 g | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)O)=O | C15H17NO2
reactant | pyridine | 4.11 mmol, 326 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 3.08 mmol, 870 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 11-allyl-8-oxo-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-6-yl ester | 605 mg, 79% | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)OS(=O)(=O)C(F)(F)F)=O | C16H16F3NO4S
